US07361744B2
(14a) Methyl 4-O-benzoyl-2,3-di-O-benzyl-6-O-p-toluenesulfonyl-α-D-glucopyranoside
Methyl 2,3-di-O-benzyl-6-O-p-toluenesulfonyl-α-D-glucopyranoside (J. Org. Chem., 2001, 66, 5965-5975) (163.9 g, 310 mmol) was dissolved in methylene chloride (1.5 L) and 4-dimethylaminopyridine (43.5 g, 352 mmol) and triethylamine (49.0 mL, 352 mmol) were added thereto. Benzoyl chloride (43.2 mL, 372 mmol) was dropwise thereto and the mixture was stirred at 0° C. for 1 hour. After diluted hydrochloric acid (2N, 500 mL) was added to the reaction mixture and the mixture was extracted with methylene chloride (1 L), the organic layer was washed with saturated aqueous sodium hydrogencarbonate (1 L) and saturated brine (1 L) and dried with anhydrous sodium sulfate, followed by distilling off of the solvent under reduced pressure. The residue was purified using silica gel flash column chromatography (hexane:ethyl acetate, 1:1, V/V) to obtain the desired title compound (196 g, yield 99%) as a colorless solid.

reactant | Methyl 2,3-di-O-benzyl-6-O-p-toluenesulfonyl-α-D-glucopyranoside | 310 mmol, 163.9 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)O)COS(=O)(=O)C1=CC=C(C=C1)C | C28H32O8S
reactant | triethylamine | 352 mmol, 49.0 mL | C(C)N(CC)CC | C6H15N
reactant | Benzoyl chloride | 372 mmol, 43.2 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 2N, 500 mL | Cl | ClH
solvent | methylene chloride | 1.5 L | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 352 mmol, 43.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 4-O-benzoyl-2,3-di-O-benzyl-6-O-p-toluenesulfonyl-α-D-glucopyranoside | 196 g, yield 99% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@H]([C@@H](OC)O[C@@H]1COS(=O)(=O)C1=CC=C(C=C1)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C35H36O9S
